* Z:\home\winson\CanSat\UCSD-Cansat-2016-17\hardware\power\sim\sim1.asc
I1 0 N002 PULSE(0.01 100m 0 0.1 1m 2 2 2)
D1 N002 N001 D
D2 N006 N001 D
C1 N006 0 10
Q1 N001 N004 N006 0 NPN
XU1 N005 N003 N004 opamp Aol=100K GBW=10Meg
D3 0 N005 D
R1 N001 N005 100k
C2 N001 0 2.2µ
C3 N003 0 2.2µ
XU2 N001 N003 N003 0 LP38691_3P3_TRANS
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 3
.lib opamp.sub
.lib Z:\home\winson\CanSat\UCSD-Cansat-2016-17\hardware\power\sim\lp38691_3p3_trans.lib
.backanno
.end
