* C:\Users\Lin Hein\UCSD-Cansat-2016-17\hardware\sim\sim1 saved plot.asc
I1 0 N002 PULSE(0.01 500m 0 0.1 1m 1000 1000000)
D2 N006 N001 d_schottky
C1 N006 0 1
Q1 N001 N004 N006 0 NPN
D3 P001 N003 BZX84-A3V6
R1 N001 N003 100k
C2 N001 0 1
C3 N005 0 1
XU2 N001 N005 N005 0 LP38691_3P3_TRANS
D4 P002 N001 d_schottky
R2 N004 0 100K
R3 N002 0 10k
R4 P002 N002 1
XU3 N001 N003 N001 0 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 N005 0 100
D1 P003 P001 BZX84-A3V6
D5 P004 P003 BZX84-A3V6
D6 0 P004 BZX84-A3V6
D7 N002 0 D_large
.model D D
.lib C:\Users\Lin Hein\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lin Hein\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 120
.lib opamp.sub
.model d_schottky D(Ron=.1n Roff=1G Vfwd=0.2)
.lib .\BZX84-A3V6.prm
.model D_large D(Ron=.1n Roff=1G Vfwd=5)
.lib .\lp38691_3p3_trans.lib
.lib UniversalOpamps2.sub
.backanno
.end
